US08039450B2
A mixture of 2-chloro-4-fluorobenzonitrile (4.43 g, 28.4 mmol), 4-bromo-3-(1,3-dioxolan-2-yl)phenol (6.96 g, 28.4 mmol), and potassium carbonate (4.70 g, 34.1 mmol) in N,N-dimethylformamide (60 mL) was stirred at 100° C. under nitrogen atmosphere overnight. The mixture was poured into ethyl acetate/water. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to give crude 4-(4-bromo-3-(1,3-dioxolan-2-yl)phenoxy)-3-chlorobenzonitrile (10.8 g), which was used for the next step without purification.

reactant | 2-chloro-4-fluorobenzonitrile | 28.4 mmol, 4.43 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | 4-bromo-3-(1,3-dioxolan-2-yl)phenol | 28.4 mmol, 6.96 g | BrC1=C(C=C(C=C1)O)C1OCCO1 | C9H9BrO3
reactant | potassium carbonate | 34.1 mmol, 4.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate water | C(C)(=O)OCC.O
reactant | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 4-(4-bromo-3-(1,3-dioxolan-2-yl)phenoxy)-3-chlorobenzonitrile | 10.8 g | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)Cl)C=C1)C1OCCO1 | C16H11BrClNO3
